US07700638B2
7-Amino-5-cyano-1-phenylbenzimidazole
To a stirred suspension of N-phenyl- 4-cyano-2,6-dinitroaniline (16.4 g, 57.8 mmol) and SnCl2, 2H2O (130.5 g, 0.58 mol) in abs. ethanol (300 ml) was added formic acid (90 ml) dropwise at ambient temperature. The reaction is exothermic. The reaction was allowed to proceed at ambient conditions overnight. The resultant mixture was rendered alkaline by addition of saturated, aqueous sodium carbonate and was filtered through Celite. The filtrate was extracted with dichloromethane. The organic extract was dried over magnesium sulphate and evaporated under reduced pressure. The residue was triturated in cold ethyl acetate to leave the title product (8.65 g, 64%).

reactant | N-phenyl- 4-cyano-2,6-dinitroaniline | 57.8 mmol, 16.4 g | C1(=CC=CC=C1)NC1=C(C=C(C=C1[N+](=O)[O-])C#N)[N+](=O)[O-] | C13H8N4O4
reactant | SnCl2 | Cl[Sn]Cl
reactant | ethanol | 300 ml | C(C)O | C2H6O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | formic acid | 90 ml | C(=O)O | CH2O2
product | 7-Amino-5-cyano-1-phenylbenzimidazole | 8.65 g, 64% | NC1=CC(=CC2=C1N(C=N2)C2=CC=CC=C2)C#N | C14H10N4
